US04113863
5 g 9β-hydroxy-15-oxo-13-prostenoic acid ethyl ester are boiled with 5 ml ethylene glycol and 0,5 g p-toluene sulfonic acid in 150 ml dry benzene for 20 hours and water is removed. After cooling to room temperature the reaction mixture is given to a mixture of 150 ml saturated aqueous NaHCO3 -solution and 750 ml diethyl ether. The organic layer is separated, washed with water, dried over Na2SO4 and the solvent is removed by destillation. One obtains 15,15-ethylenedioxy-9β-hydroxy-12-prostenoic acid ethyl ester after chromatographical purification of the residue (silicagel/diisopropyl ether); IR: 3500, 1740 and 1470 cm-1.

reactant | 9β-hydroxy-15-oxo-13-prostenoic acid ethyl ester | 5 g | C(C)OC(CCCCCC[C@H]1[C@@H](CC[C@@H]1C=CC(CCCCC)=O)O)=O | C22H38O4
reactant | ethylene glycol | 5 ml | C(CO)O | C2H6O2
reactant | p-toluene sulfonic acid | 0,5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 15,15-ethylenedioxy-9β-hydroxy-12-prostenoic acid ethyl ester | C(C)OC(CCCCCC[C@H]1[C@@H](CCC1=CCC1(CCCCC)OCCO1)O)=O | C24H42O5
